US04863934
3,4-dihydro-2H-benzopyran-4-one
A mixture of 2,2-dimethyl-5,7-dihydroxy-4-chromanone (2.08 g, 10 mM), potassium carbonate (2.76 g, 20 mM), N,N-dimethylformamide (10 ml) and 5-phenyl-2-pentanol mesylate (2.64 g, 11 mM), under a nitrogen atmosphere, is heated to 80°-82° C. in an oil bath for 1.75 hours. The mixture is cooled to room temperature and then poured into ice/water (100 ml). The aqueous solution is extracted with ethyl acetate (2×25 ml) and the combined extracts washed successively with water (3×25 ml) and saturated brine (1×25 ml). The extract is then dried (MgSO4), decolorized with charcoal and evaporated to give the product as an oil which crystallizes upon seeding with pure product; m.p. 83°-84° C. Yield=quantitative.

reactant | 2,2-dimethyl-5,7-dihydroxy-4-chromanone | 10 mM, 2.08 g | CC1(OC2=CC(=CC(=C2C(C1)=O)O)O)C | C11H12O4
reactant | potassium carbonate | 20 mM, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-phenyl-2-pentanol mesylate | 11 mM, 2.64 g | S(C)(=O)(=O)OC(C)CCCC1=CC=CC=C1 | C12H18O3S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-2H-benzopyran-4-one | O1CCC(C2=C1C=CC=C2)=O | C9H8O2
